US04766131
N-(4-Aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline dihydrochloride (20.0 g, 0.05 m) was suspended in 49% HBr (50 ml) maintained under nitrogen and heated to 120° for 1.5 hr. The mixture was cooled and then poured into 500 cc of ice/water and the solution basified to pH 11 and extracted with ether (3×250 ml). The aqueous phase was buffered to pH 8 by adding glacial acetic acid and dilute NaOH as needed, then extracted with chloroform (4×300 ml). The chloroform extracts were dried over MgSO4 and evaporated to an oil, 8.5 g. This crude product was purified by HPLC on silica gel eluting with ammonia saturated 5% CH3OH/CHCl3. Pure fractions were combined and evaporated to give a yellow oil, 5.5 g. This was dissolved in methanol (20 ml) and isopropanol (10 ml), acidified with HCl gas and the stirred solution treated with ether (100 ml). The solid precipitate was collected by filtration, washed with 10% isopropanol/ether and vacuum dried to give N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6-hydroxy-7-methoxy-1-methylisoquinoline dihydrochloride as a white solid, m.p. 201°-205°.

reactant | N-(4-Aminophenethyl)-1,2,3,4-tetrahydro-6,7-dimethoxy-1-methylisoquinoline dihydrochloride | 20.0 g | Cl.Cl.NC1=CC=C(CCN2C(C3=CC(=C(C=C3CC2)OC)OC)C)C=C1
reactant | HCl | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | HBr | 50 ml | Br | BrH
solvent | methanol | 20 ml | CO | CH4O
solvent | isopropanol | 10 ml | C(C)(C)O | C3H8O
product | N-(4-aminophenethyl)-1,2,3,4-tetrahydro-6-hydroxy-7-methoxy-1-methylisoquinoline dihydrochloride | Cl.Cl.NC1=CC=C(CCN2C(C3=CC(=C(C=C3CC2)O)OC)C)C=C1 | InChI=1S/C19H24N2O2.2ClH/c1-13-17-12-19(23-2)18(22)11-15(17)8-10-21(13)9-7-14-3-5-16(20)6-4-14;;/h3-6,11-13,22H,7-10,20H2,1-2H3;2*1H
